US08497278B2
1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(ethylamino)pyrimidin-2(1H)-one (132)
A mixture of 4-chloro-1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2(1H)-one (50 mg, 0.13 mmol) and ethylamine (30 μl) in ethanol (2 ml) in a sealed tube was heated at 70° C. for 4 hours. Excess reagent was evaporated under reduced pressure. Crude product was dissolved in CH2Cl2 (10 mL) was washed with water, sat. NaHCO3 and brine, dried and evaporated. The crude product was purified by silica gel chromatography. M/e+ 380 for C20H19ClN5O (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.42 (d, J=6.6 Hz, 1H), 7.68 (d, J=8.4 Hz, 2H), 7.64 (d, J=9.1 Hz, 1H), 7.47 (d, J=8.4 Hz, 2H), 7.29 (d, J=7.7 Hz, 1H), 6.87 (t, J=6.9 Hz, 1H), 6.65 (d, J=7.3 Hz, 1H), 5.37 (d, J=7.3 Hz, 2H), 4.97 (s, 1H), 3.51 (m, 2H), 3.18 (s, 1H), 1.18 (t, J=7.3 Hz, 3H) ppm.

reactant | 4-chloro-1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2(1H)-one | 0.13 mmol, 50 mg | ClC1=NC(N(C=C1)CC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl)=O | C18H12Cl2N4O
reactant | ethylamine | 30 μl | C(C)N | C2H7N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(ethylamino)pyrimidin-2(1H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1C(N=C(C=C1)NCC)=O | C20H18ClN5O
